US04927926
0.5 g (1.4 mmoles) of 1-cyclopropyl-6,8-difluoro-7-(3-amino-3-methyl-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid are suspended in 10 ml of methanol, and to this is added an excess of a methanolic solution of gaseous hydrogen chloride. The mixture is agitated for 30 minutes, and ethyl ether and petroleum ether are added. After filtering, washing with ethyl ether and drying by heating, 0.45 g (82%) of 1-cyclopropyl-6,8-difluoro-7-(3-amino-3-methyl-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochloride are obtained, melting at 249°-250° C.

reactant | 1-cyclopropyl-6,8-difluoro-7-(3-amino-3-methyl-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.4 mmoles, 0.5 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)(C)N)F)=O)C(=O)O | C17H17F2N3O3
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | methanol | 10 ml | CO | CH4O
product | 1-cyclopropyl-6,8-difluoro-7-(3-amino-3-methyl-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochloride | 0.45 g, 82% | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)(C)N)F)=O)C(=O)O | InChI=1S/C17H17F2N3O3.ClH/c1-17(20)6-21(7-17)14-11(18)4-9-13(12(14)19)22(8-2-3-8)5-10(15(9)23)16(24)25;/h4-5,8H,2-3,6-7,20H2,1H3,(H,24,25);1H
